US04578390
2-(2-Hydroxy-5-methoxybenzylamino)thiophene (2.3 g) was dissolved in 25 ml of methylene chloride under nitrogen atmosphere and 1.44 g (5 mmole) of solid naphthalene 1,5-disulfonic acid was added. The solid acid dissolved quickly and a white precipitate appeared after 5 minutes of vigorous stirring. After the reaction mixture was stirred 1/2 hour the resultant precipitate was collected, washed 2×10 ml with methylene chloride and air-dried to give 3.6 g of 2-(2-hydroxy-5-methoxybenzylamino)thiophene naphthalene-1,5-disulfonic acid salt (m.p. 185 dec).

reactant | 2-(2-Hydroxy-5-methoxybenzylamino)thiophene | 2.3 g | OC1=C(CNC=2SC=CC2)C=C(C=C1)OC | C12H13NO2S
reactant | naphthalene 1,5-disulfonic acid | C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O | C10H8O6S2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-hydroxy-5-methoxybenzylamino)thiophene naphthalene-1,5-disulfonic acid salt | 3.6 g | C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O.OC1=C(CNC=2SC=CC2)C=C(C=C1)OC | InChI=1S/C12H13NO2S.C10H8O6S2/c1-15-10-4-5-11(14)9(7-10)8-13-12-3-2-6-16-12;11-17(12,13)9-5-1-3-7-8(9)4-2-6-10(7)18(14,15)16/h2-7,13-14H,8H2,1H3;1-6H,(H,11,12,13)(H,14,15,16)
